US05110983
Preparation of 2-(4-methylphenyl)-2-[4-(4-nitrophenoxy)phenyl]hexafluoropropane
334 g (1 mol) of 2-(4-hydroxyphenyl)-2-(4-methylphenyl)hexafluoropropane, 1.2 dm3 of dimethylacetamide, 200 cm3 of toluene and 44 g of sodium hydroxide were refluxed until it was no longer possible to separate off any water of reaction using a water separator. The toluene was then removed by distillation, 164.4 g (1.1 mol) of 4-chloronitrobenzene were added, and the mixture was refluxed for 48 hours. After the mixture had been cooled to about 0° C., the solid was filtered off, washed with about 100 cm3 of dimethylacetamide and discarded. As much of the dimethylacetamide as possible was removed from the filtrate by vacuum distillation. The oily residue was taken up in 800 cm3 of methanol, a yellow solid precipitating out. The solid was separated off and dried. After the mother liquor had been worked up, a total of 325 g (71% of theory) of a yellow solid were obtained.

reactant | 2-(4-hydroxyphenyl)-2-(4-methylphenyl)hexafluoropropane | 1 mol, 334 g | OC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)C | C16H12F6O
reactant | dimethylacetamide | 1.2 dm3 | CC(=O)N(C)C | C4H9NO
reactant | sodium hydroxide | 44 g | [OH-].[Na+]
reactant | 4-chloronitrobenzene | 1.1 mol, 164.4 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | toluene | 200 cm3 | C1(=CC=CC=C1)C | C7H8
product | 2-(4-methylphenyl)-2-[4-(4-nitrophenoxy)phenyl]hexafluoropropane | CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C22H15F6NO3
